US08053438B2
To a stirred solution of 2-(1-benzylpiperidin-4-yl)-1,1,1-trifluoropropan-2-ol in methanol (25 mL), palladium on carbon (150 mg, 3.26 mmol) was added under hydrogen atmosphere. The resulting mixture was stirred under reflux for 6 h at 65 C. After completion of the reaction, the mixture was filtered and concentrated under vacuum to afford 1,1,1-trifluoro-2-(piperidin-4-yl)propan-2-ol. [M+H]=198.06

reactant | 2-(1-benzylpiperidin-4-yl)-1,1,1-trifluoropropan-2-ol | C(C1=CC=CC=C1)N1CCC(CC1)C(C(F)(F)F)(C)O | C15H20F3NO
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 3.26 mmol, 150 mg | [Pd] | Pd
product | 1,1,1-trifluoro-2-(piperidin-4-yl)propan-2-ol | FC(C(C)(O)C1CCNCC1)(F)F | C8H14F3NO
